US07820658B2
2-Amino-4-phenethyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To a solution of 2-amino-4-styryl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (78 mg, 0.18 mmol) in ethanol was added 5% palladium on activated charcoal (51 mg) which was stirred overnight under a hydrogen atmosphere. The suspension was filtered through celite, the volatiles removed in vacuo and the residue purified using semi-preparative HPLC to yield the pure compound as an orange powder.

reactant | 2-amino-4-styryl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.18 mmol, 78 mg | C(C)OC(=O)C1=CC2=C(N=C(N=C2C=CC2=CC=CC=C2)N)S1 | C17H15N3O2S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on activated charcoal | 51 mg | [Pd] | Pd
product | 2-Amino-4-phenethyl-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(N=C(N=C2CCC2=CC=CC=C2)N)S1 | C17H17N3O2S
